* C:\Users\USUARIO\Documents\GitHub\WaveShaperAD9833\Amplificador_Del_reloj.wxsch
*#SIMETRIX
X1 V3_P R2_P VDD 0 VOUT_A1 AD8651 pinnames: inp inn vsp vsn out
V1 VIN 0  Pulse(0 650m 0 49.50495n 49.50495n 4.950495u 10u)
V2 VDD 0 3.3
R1 VOUT_A1 R2_P 100k
V3 V3_P 0 300m
R2 R2_P VIN 1K
V4 V4_P 0  Pulse(0 650m 0 49.50495n 49.50495n 4.950495u 10u)
R3 R3_P V4_P 1K
R4 VDD VOUT_TRANSISTOR 1K
Q1 VOUT_TRANSISTOR R3_P 0 0 Q2N2221
.GRAPH VIN curveLabel= VIN nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH VOUT_A1 curveLabel= VOUT_A1 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH VOUT_TRANSISTOR curveLabel= VOUT_TRANSISTOR nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.TRAN 300u

